US06583135B2
Preparation of 3-Benzoyl-10-[2-(cyclopentyloxy)phenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A 0° C. solution of 2-(3-benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)phenol (0.88 mg, 2.30 mmol) in THF (5 mL) was treated with triphenylphosphine (1.03 g, 3.93 mmol) and cyclopentanol (0.32 g, 3.67 mmol). After stirring for 10 minutes, di-tert-butyl azodicarboxylate (0.80 g, 3.45 mmol) was added dropwise and the reaction was stirred at room temperature for 16.5 hours. The reaction mixture was concentrated in vacuo, dissolved in CH2Cl2 and passed through a column of silica gel with 50% ethyl acetate/hexane to give 741 mg (72%) of a yellow solid as the title compound: mp 187.0-189.2° C. MS m/z 451.3 (M++H).

reactant | 2-(3-benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)phenol | 2.30 mmol, 0.88 mg | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)O | C25H22N2O2
reactant | triphenylphosphine | 3.93 mmol, 1.03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclopentanol | 3.67 mmol, 0.32 g | C1(CCCC1)O | C5H10O
reactant | di-tert-butyl azodicarboxylate | 3.45 mmol, 0.80 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-Benzoyl-10-[2-(cyclopentyloxy)phenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 741 mg, 72% | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)OC1CCCC1 | C30H30N2O2
